US05268470
In a preferred embodiment, 2,2'-dichlorodiethylether was reacted with morpholine to form 3,9-dioxa-6-azoniaspiro [5.5] undecane chloride as the intermediate.

reactant | 2,2'-dichlorodiethylether | C(CCl)OCCCl | C4H8Cl2O
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3,9-dioxa-6-azoniaspiro [5.5] undecane chloride | [Cl-].C1COCC[N+]12CCOCC2 | InChI=1S/C8H16NO2.ClH/c1-5-10-6-2-9(1)3-7-11-8-4-9;/h1-8H2;1H/q+1;/p-1
